US06737421B1
a) Methyl 2-amino-3-(cis-4-amino-1-cyclohexylamino)benzoate
2.4 g (9.9 mmol) of cis-4-(tert-butoxycarbonylamino)-cyclohexanecarboxylic acid and 2.7 ml (19.7 mmol) of triethylamine were dissolved in 70 ml of anhydrous tetrahydrofuran and, at −10° C., a solution of 0.94 ml (9.9 mmol) of ethyl chloroformate in 25 ml of anhydrous tetrahydrofuran was added dropwise. The mixture was then stirred at 0° C. for 1 hour. After this, 1.6 g (9.9 mmol) of methyl 2,3-diaminobenzoate were added, and the mixture was stirred at room temperature for 16 hours. The reaction mixture was poured into ice-water and made alkaline with aqueous sodium bicarbonate solution. This aqueous phase was extracted with ethyl acetate. The organic phase was then washed with aqueous sodium bicarbonate solution and water, dried and concentrated in vacuo. 2.7 g of the product were obtained.

reactant | cis-4-(tert-butoxycarbonylamino)-cyclohexanecarboxylic acid | 9.9 mmol, 2.4 g | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)C(=O)O | C12H21NO4
reactant | triethylamine | 19.7 mmol, 2.7 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 9.9 mmol, 0.94 ml | ClC(=O)OCC | C3H5ClO2
reactant | methyl 2,3-diaminobenzoate | 9.9 mmol, 1.6 g | NC1=C(C(=O)OC)C=CC=C1N | C8H10N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | Methyl 2-amino-3-(cis-4-amino-1-cyclohexylamino)benzoate | 2.7 g | NC1=C(C(=O)OC)C=CC=C1N[C@@H]1CC[C@@H](CC1)N | C14H21N3O2
